US06110956
2-(2-Amino-ethoxy)-4-chloro-6-nitro-phenylamine
A solution of 2-(2-azido-ethoxy)-4-chloro-6-nitro-phenylamine (1.9 g, 7.36 mmol) and triphenylphosphine (2.27 g, 8.65 mmol) in tetrahydrofuran (80 ml) and water (2 ml) was allowed to stir for 24 hours at room temperature. The solvent was removed under vacuum and the solid washed with methylene chloride (30 ml) to afford an orange solid: mp 156-157° C.

reactant | 2-(2-azido-ethoxy)-4-chloro-6-nitro-phenylamine | 7.36 mmol, 1.9 g | N(=[N+]=[N-])CCOC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])N | C8H8ClN5O3
reactant | triphenylphosphine | 8.65 mmol, 2.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-(2-Amino-ethoxy)-4-chloro-6-nitro-phenylamine | NCCOC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])N | C8H10ClN3O3
